### PR TITLE
fix misleading definition of `f`

### LINKED ISSUE #1639: Trivial disproofs in `DegreeSequencesTriangleFree`
### Trivial proof/disproof
```lean
@[category research solved, AMS 5]
theorem theorem1 (G : SimpleGraph α) [DecidableRel G.Adj] (h₁ : G.CliqueFree 3) (h₂ : f G = 2) :
    G.IsBipartite ∧ G.minDegree = 1 ∧ HasCompactdegreeSequence G := by
  -- AlphaProof found a disproof
  negate_goal
  by_contra! p
  specialize@p<|ULift (Fin 2)
  delta SimpleGraph.IsBipartite SimpleGraph.minDegree SimpleGraph.degree SimpleGraph.f SimpleGraph.CliqueFree at*
  norm_cast at*
  delta SimpleGraph.largestInducedForestSize at*
  simp_rw [SimpleGraph.isAcyclic_iff_forall_adj_isBridge]at*
  use(p ⊥ (by decide) (IsGreatest.csSup_eq ⟨⟨⊤, nofun, rfl⟩, fun and⟨A, B, C⟩=>C▸ A.card_le_univ⟩)).elim (by norm_num+decide[← Fintype.card_coe])

/-- **Lemma 3.** For every `n` there exists a bipartite graph with
`8 n` vertices, minimum degree `n + 1`, and `f = 3`. -/
@[category API, AMS 5]
lemma lemma3 (n : ℕ) (hn : 0 < n) :
    ∃ (G : SimpleGraph (Fin (8 * n))) (_ : DecidableRel G.Adj),
      G.IsBipartite ∧ G.minDegree = n + 1 ∧ f G = 3 := by
  -- AlphaProof found a disproof
  negate_goal
  delta SimpleGraph.IsBipartite Ne SimpleGraph.degree SimpleGraph.minDegree SimpleGraph.f
  delta SimpleGraph.largestInducedForestSize
  use 64,by decide,mod_cast fun and y ⟨a, _⟩ A B=>?_
  have:=Fintype.card_congr ((.sigmaFiberEquiv a))▸ Fintype.card_sigma
  replace B y: Fintype.card {s | a s=y}≤3:=( Fintype.card_subtype _).trans_le (B▸le_csSup ((Set.toFinite _).image _).exists_le ⟨ _,?_, rfl⟩)
  · norm_num[SimpleGraph.isAcyclic_iff_forall_adj_isBridge]at‹∀_, _›⊢
    use fun and R M K V=>absurd (‹∀ (x _),_› and M) (by norm_num[*])
  · use (by decide ∘(Fintype.card_fin _▸this).trans_le) ( Finset.sum_le_sum fun and k=>B _)
```

Found by AlphaProof

### Choose either option
- [ ] I plan on working on this issue
- [x] This issue is up for grabs: I would like to see this misformalization fixed by somebody else

### PR DESCRIPTION
**Pull request by mo271**
closes #1639

Many conjectures had a missing "G doesn't have any isolated vertices, i.e. is connected" and also there was a misleading definition of $f$.

### CODE REVIEW

File: FormalConjecturesForMathlib/Combinatorics/SimpleGraph/GraphConjectures/Definitions.lean [hunk 1]
```diff
@@ -61,9 +61,16 @@ noncomputable def aprime (G : SimpleGraph α) [DecidableRel G.Adj] : ℝ :=
...
+/-- The degree sequence of a graph, sorted in nondecreasing order. -/
+noncomputable def degreeSequence (G : SimpleGraph α) [DecidableRel G.Adj] : List ℕ :=
+  (Finset.univ.val.map fun v : α => G.degree v).sort (· ≤ ·)
+
+/--
+The maximum number of occurrences of any term of the degree sequence of `G`.
+-/
+noncomputable def degreeSequenceMultiplicity (G : SimpleGraph α) [DecidableRel G.Adj] : ℕ :=
+  let degs := degreeSequence G
+  (List.max? (degs.map (fun d => degs.count d))).get!
```
Comment (Paul-Lez) [inline FormalConjecturesForMathlib/Combinatorics/SimpleGraph/GraphConjectures/Definitions.lean]: I usually prefer using `getD` - feels a little cleaner here for computing things!
```suggestion
  letI degs := degreeSequence G
  (List.max? (degs.map (fun d => degs.count d))).getD 0
``````
